US06716856B1
Preparation of 1-(3-Aminophenyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
Stannous chloride dihydrate (0.94 g, 4.2 mmol) was added to a solution of 1-(3-nitrophenyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole (0.25 g, 0.84 mmol), prepared as described in example 3, in ethanol (5 ml). The reaction mixture was heated at 70° C. for about 1 hour, cooled to room temperature, poured onto ice, neutralized with 5% sodium bicarbonate and extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate and evaporated. The residue was chromatographed on silica gel (cyclohexane:ethyl acetate=60:40) to give the title compound as a colourless solid (0.125 g, 60%): m.p. 131-132° C.

reactant | 1-(3-nitrophenyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.84 mmol, 0.25 g | [N+](=O)([O-])C=1C=C(C=CC1)N1N=C(C=2C(CC(CC12)(C)C)=O)C | C16H17N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(3-Aminophenyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.125 g, 60% | NC=1C=C(C=CC1)N1N=C(C=2C(CC(CC12)(C)C)=O)C | C16H19N3O
